US04140697
Alpha-acetamido-6-chloro-3-indoleacrylic acid methylester
A 2-l. three-necked flask, equipped with a thermometer, a mechancal stirrer and a dropping funnel was charged with 101.2 g (ca. 0.35 moles) of crude pulverized alpha-amino-6-chloro-3-indoleacrylic acid methylester hydrochloride and 400 ml of acetic anhydride. The slurry was cooled to 15°. Then 32 g (0.40 moles) of pyridine was added with stirring over a 5 minute period, while the temperature was kept between 15° and 22°; after complete addition, virtually all starting hydrochloride went into solution. Stirring at 22° was continued for 20 minutes during which the product began to crystallize out. 200 ml of water was then added over 40 minutes, keeping the temperature at ca. 25°. Stirring at this temperature was continued for 11/2 hours. 900 ml of water was then added over 5 minutes and the slurry stirred at room temperature for an additional hour. The precipitate was collected by suction filtration, washed with 750 ml of water and dried at 60° (constant weight) to afford 92.9 g (90%) of product, as yellow crystals, m.p. 202-203°.

reactant | alpha-amino-6-chloro-3-indoleacrylic acid methylester hydrochloride | Cl.COC(C(=CC1=CNC2=CC(=CC=C12)Cl)N)=O
reactant | pyridine | 0.40 moles, 32 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloride | Cl | ClH
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Alpha-acetamido-6-chloro-3-indoleacrylic acid methylester | 92.9 g, 90% | COC(C(=CC1=CNC2=CC(=CC=C12)Cl)NC(C)=O)=O | C14H13ClN2O3
